US07531532B2
Pyrrolidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide
To a solution of 4-(4-amino-3-fluorophenoxy)pyridin-2-ylamine (500 mg) in tetrahydrofuran (10 ml) was added triethylamine (0.223 ml), and then phenyl chloroformate (0.200 ml) was added thereto while stirring in an ice bath, followed by stirring under a nitrogen atmosphere for 2 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (10 ml) and pyrrolidine (0.667 ml) were then added, followed by stirring at room temperature for 21 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing the target compound were concentrated to provide the titled compound (94 mg, 13%) as a purple oil.

reactant | 4-(4-amino-3-fluorophenoxy)pyridin-2-ylamine | 500 mg | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)F | C11H10FN3O
reactant | triethylamine | 0.223 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.200 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 0.667 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Pyrrolidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide | 94 mg, 13% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
